US05886210
A 50-mL round-bottom flask was equipped with a magnetic stir bar, reflux condenser, thermometer, nitrogen inlet, and heating mantle attached to a temperature controller. The flask was charged with methyl 2-chloro-6-fluorobenzoate (5.11 g, 27.1 mmol) and copper powder (3.44 g, 54.2 mmol). Propionic acid (15 mL) was added, and the resulting mixture was heated to 135° C. Additional copper (0.34 g) was added after 7 hours in order to complete the dehalogenation. The reaction was monitored by GC analysis and was judged to be complete when the starting material was no longer detectable (10.5 hours). Toluene (30 mL) was added as the reaction was cooled to room temperature. The resulting mixture was filtered, and the solids were washed with toluene. The filtrates were blue-green. The filtrates were combined and washed with 1M hydrochloric acid solution until the blue-green color disappeared. The resulting yellow organic layer was washed with water and dried over sodium sulfate. The solvent was removed by evaporation under reduced pressure. The residue was dried under vacuum to give 3.54 g of methyl 2-fluorobenzoate as a pale yellow oil. Some of the product appeared to be lost during vacuum drying due to vaporization.

reactant | methyl 2-chloro-6-fluorobenzoate | 27.1 mmol, 5.11 g | ClC1=C(C(=O)OC)C(=CC=C1)F | C8H6ClFO2
reactant | Propionic acid | 15 mL | C(CC)(=O)O | C3H6O2
catalyst | copper | 54.2 mmol, 3.44 g | [Cu] | Cu
catalyst | copper | 0.34 g | [Cu] | Cu
solvent | Toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 2-fluorobenzoate | 3.54 g | FC1=C(C(=O)OC)C=CC=C1 | C8H7FO2
